US05179212
To a solution of (RS)-3-hydroxy-4-(methanesulfonyloxy)butyronitrile (14.6 g) in methanol (60 ml), 10 wt. % Pd on carbon (2.5 g) and conc. hydrochloric acid (15 ml) were added. The mixture was stirred in a hydrogen atmosphere of 4.0 kg/cm2 at room temperature for 8 hours. After filtering off the catalyst, the mixture was evaporated under reduced pressure to obtain a crude product, which was purified by silica gel chromatography (Wako Gel C200, an eluent: methanol/acetone (volume ratio of 1/9) to obtain pure (RS)-3-hydroxy-4-(methanesulfonyloxy)butylamine hydrochloride (15.4 g). Yield, 85 %.

reactant | (RS)-3-hydroxy-4-(methanesulfonyloxy)butyronitrile | 14.6 g | OC(CC#N)COS(=O)(=O)C | C5H9NO4S
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 ml | CO | CH4O
catalyst | Pd on carbon | 2.5 g | [Pd] | Pd
product | (RS)-3-hydroxy-4-(methanesulfonyloxy)butylamine hydrochloride | 15.4 g | Cl.OC(CCN)COS(=O)(=O)C | InChI=1S/C5H13NO4S.ClH/c1-11(8,9)10-4-5(7)2-3-6;/h5,7H,2-4,6H2,1H3;1H
